US07625922B2
1-(4-(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]pyridin-7-yl-oxy)-2-fluorophenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea (CJS 3253)
Method H2 was used with 7-(4-amino-3-fluorophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one (26 mg, 0.1 mmol) and 1-chloro-4-isocyanato-2-(trifluoromethyl)benzene (23 mg, 0.1 mmol) to afford the title compound (40 mg, 83%). 1H-NMR (δ, ppm, DMSO-d6): 6.45 (d, 1H, HPy,5, J=5.91 Hz), 6.98 (d, 1H, Harom,Ph), 7.23 (d, 1H, Harom,Ph), 7.63 (broad s, 2H, Harom), 7.79 (d, 1H, HPy,6), 8.05 (s, 1H, Harom,Ph), 8.12 (s, 1H, Harom′), 8.69 (s, 1H, NHurea,1), 9.49 (s, 1H, NHurea,3), 11.22 (s, 1H, NHPy3), 11.42 (s, 1H, NHPy2). LC-MS (m/z): 481 (M+H, 100).

reactant | 7-(4-amino-3-fluorophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | 0.1 mmol, 26 mg | NC1=C(C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=C1)F | C12H9FN4O2
reactant | 1-chloro-4-isocyanato-2-(trifluoromethyl)benzene | 0.1 mmol, 23 mg | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-(2,3-Dihydro-2-oxo-1H-imidazo[4,5-b]pyridin-7-yl-oxy)-2-fluorophenyl)-3-(4-chloro-3-(trifluoromethyl)phenyl)urea | 40 mg, 83% | O=C1NC=2C(=NC=CC2OC2=CC(=C(C=C2)NC(=O)NC2=CC(=C(C=C2)Cl)C(F)(F)F)F)N1 | C20H12ClF4N5O3
